US06087380
b) 4-Amino-benzoic acid-N-phenyl-N-(2-methoxycarbonylethyl)amide
22 g (67 mmol) of 4-nitro-benzoic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide were hydrogenated in 500 ml of methanol with 2 g of 10% palladium on charcoal at 3 bar hydrogen pressure for 3 hours. After filtration and distillation of the solvent the reaction mixture was washed with 100 ml of ether and the white crystalline product was further reacted directly. Yield: 18.6 g (94% of theory), Rf value: 0.70 (silica gel; methylene chloride/ethanol=19:1)

reactant | 4-nitro-benzoic acid-N-phenyl-N-(2-methoxycarbonylethyl)-amide | 67 mmol, 22 g | C1(=CC=CC=C1)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)CCC(=O)OC | C17H16N2O5
reactant | hydrogen | [H][H] | H2
reactant | methylene chloride ethanol | C(Cl)Cl.C(C)O
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | 4-Amino-benzoic acid-N-phenyl-N-(2-methoxycarbonylethyl)amide | C1(=CC=CC=C1)N(C(C1=CC=C(C=C1)N)=O)CCC(=O)OC | C17H18N2O3
